US08202856B2
1-(4-{5-[1-(2-fluorophenyl)-5-pyridin-4-yl-1H-1,2,3-triazol-4-yl]-1,2,4-oxadiazol-3-yl}benzyl)piperidine-3-carboxylic acid
The title compound was prepared following the procedure described for Example 94, but starting from 4-(5-(1-(2-fluorophenyl)-5-(pyridin-4-yl)-1H-1,2,3-triazol-4-yl)-1,2,4-oxadiazol-3-yl) benzaldehyde, obtained as described in Example 113, Step 1, (200 mg; 0.48 mmol) and piperidine-3-carboxylic acid (125 mg; 0.97 mmol) to give Example 158 as a yellow solid. 1H NMR: (DMSO-d6, 400 MHz) δ 12.25 (1H, br s), 8.75 (2H, dd, J=4.5, 1.6 Hz), 7.97-7.88 (3H, m), 7.76-7.69 (1H, m), 7.61 (2H, dd, J=4.5, 1.7 Hz), 7.57-7.47 (4H, m), 3.59 (2H, t, J=14.7 Hz), 2.85 (1H, d, J=11.0 Hz), 2.68 (1H, d, J=11.2 Hz), 2.50-2.42 (1H, m), 2.28-1.95 (2H, m), 1.84 (1H, d, J=12.1 Hz), 1.68 (1H, dd, J=12.2, 4.7 Hz), 1.58-1.31 (2H, m). LC/MS (Method C): 526 (M+H)+. HPLC (Method F) Rt 2.83 min (Purity: 98.7%).

reactant | 4-(5-(1-(2-fluorophenyl)-5-(pyridin-4-yl)-1H-1,2,3-triazol-4-yl)-1,2,4-oxadiazol-3-yl) benzaldehyde | FC1=C(C=CC=C1)N1N=NC(=C1C1=CC=NC=C1)C1=NC(=NO1)C1=CC=C(C=O)C=C1 | C22H13FN6O2
reactant | piperidine-3-carboxylic acid | 0.97 mmol, 125 mg | N1CC(CCC1)C(=O)O | C6H11NO2
product | 1-(4-{5-[1-(2-fluorophenyl)-5-pyridin-4-yl-1H-1,2,3-triazol-4-yl]-1,2,4-oxadiazol-3-yl}benzyl)piperidine-3-carboxylic acid | FC1=C(C=CC=C1)N1N=NC(=C1C1=CC=NC=C1)C1=NC(=NO1)C1=CC=C(CN2CC(CCC2)C(=O)O)C=C1 | C28H24FN7O3
